* C:\users\mostlyk\Documents\LTspiceXVII\EW-2\Pre-Gain\initial-1-0-1.asc
R1 N005 P001 2k
V1 N004 0 SINE(0 40mV 3k)
Q1 N002 N004 N005 0 BC547B
Q2 N003 0 N005 0 BC547B
R2 N001 N002 1k
R3 N001 N003 1k
V2 N001 0 1.8V
V3 P001 0 -1.8V
.model NPN NPN
.model PNP PNP
.lib C:\users\mostlyk\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10ms
.backanno
.end
